US06531491B1
A solution of 6-pyridin-4-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole-3-carbaldehyde (0.70 g, 2.0 mmol), benzene-1,2-diamine (0.26 g, 2.4 mmol) and sulfur (77 mg, 2.4 mmol) in DMF (10 ml) was heated in an oil bath at 90° C. overnight. The resulting mixture was poured into brine (200 ml), then extracted with EtOAc (3×60 ml). The combined organic layer was dried over MgSO4 and concentrated under reduced pressure. The resulting oil was purified by silica gel chromatography to yield 6-pyridin4yl-1-(2-trimethylsilanyl-ethoxymethyl)-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-indazole as a light brown oil (0.75 g, 65%). 1H NMR (CDCl3) δ 8.82 (d, 1H, J=8.5 Hz), 8.73 (d, 1H, J=5.8 Hz), 7.94-7.89 (m, 2H), 7.87 (s, 1H), 7.69-7.62 (m, 4H), 7.40-7.34 (m, 2H), 3.70-3.49 (m, 4H), 0.94 (t, 2H, J=8.3 Hz), 0.67 (t, 2H, J=8.2 Hz), −0.03 (s, 9H), −0.13 (s, 9H).

reactant | 6-pyridin-4-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole-3-carbaldehyde | 2.0 mmol, 0.70 g | N1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=O | C19H23N3O2Si
reactant | benzene-1,2-diamine | 2.4 mmol, 0.26 g | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | sulfur | 2.4 mmol, 77 mg | [S] | S
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | brine | 200 ml | [Cl-].[Na+].O
product | 6-pyridin4yl-1-(2-trimethylsilanyl-ethoxymethyl)-3-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-indazole | 0.75 g, 65% | N1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C31H41N5O2Si2
